US05750549
2-Methoxy-3-carbomethoxy-5-aminopyridine
2-Methoxy-3-carbomethoxy-5-nitropyridine (850 mg, 4 mmol) was added to a medium pressure Parr shaker bottle (250 mL) containing 100 mg of 20% Pearlman's catalyst (palladium hydroxide/carbon) and 50 mL of methanol. The bottle was pressurized to 50 psi of hydrogen and shaken for 2 hours. By TLC, no starting material was observed (98/2 CH2Cl2 /MeOH). The catalyst was filtered off, the methanol was removed under reduced pressure and the product used in the next step without further purification. Recovered 680 mg of product (95% yield).

reactant | 2-Methoxy-3-carbomethoxy-5-nitropyridine | 4 mmol, 850 mg | COC1=NC=C(C=C1C(=O)OC)[N+](=O)[O-] | C8H8N2O5
reactant | methanol | 50 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Pearlman's catalyst | 100 mg | [OH-].[OH-].[Pd+2]
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 2-Methoxy-3-carbomethoxy-5-aminopyridine | 680 mg, 95% yield | COC1=NC=C(C=C1C(=O)OC)N | C8H10N2O3
